US07432288B2
1-[4-(Dimethylamino)benzyl]-3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione
3-Chloro-1-[4-(dimethylamino)benzyl]-4-phenyl-1H-pyrrole-2,5-dione (0.20 mmol, 68 mg) and 4-methoxyaniline (0.48 mmol, 59 mg) were dissolved in DMF (1 mL). The mixture was heated in a microwave reactor at 150° C. for five min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 11 mg (13%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.38-7.34 (m, 2H), 7.15 (bs, 1H), 7.13-7.04 (m, 3H), 6.97 (m, 2H), 6.70 (d, 2H), 6.60-6.51 (m, 4H), 4.67 (s, 2H), 3.69 (s, 3H), 2.93 (s, 6H).

reactant | 3-Chloro-1-[4-(dimethylamino)benzyl]-4-phenyl-1H-pyrrole-2,5-dione | 0.20 mmol, 68 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=CC=C(C=C1)N(C)C)=O | C19H17ClN2O2
reactant | 4-methoxyaniline | 0.48 mmol, 59 mg | COC1=CC=C(N)C=C1 | C7H9NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[4-(Dimethylamino)benzyl]-3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 11 mg, 13% | CN(C1=CC=C(CN2C(C(=C(C2=O)C2=CC=CC=C2)NC2=CC=C(C=C2)OC)=O)C=C1)C | C26H25N3O3
